US08012976B2
5-Fluoro-8-(4-fluorophenyl)-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
To a solution of ethyl 7-fluoro-2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (840 mg, 2.04 mmol) in methanol (2 mL) was added hydrazine monohydrate (1 mL), and the mixture was stirred under 25° C. for 10 hr. Then the mixture was filtered to obtain a white solid (650 mg, yield 84%). LC-MS (ESI) m/z: 381 (M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.66 (s, 3H), 4.97-5.04 (m, 2H), 6.91-6.94 (dd, J1=11.2 Hz, J2=2.4 Hz, 1H), 7.06-7.09 (dd, J1=8.8 Hz, J2=2.4 Hz, 1H), 7.14-7.18 (m, 3H), 7.47-7.51 (m, 2H), 7.72 (s, 1H), 7.80 (s, 1H), 12.35 (s, 1H)

reactant | ethyl 7-fluoro-2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 2.04 mmol, 840 mg | FC=1C=C(C=2C(C(C(NC2C1)C1=CC=C(C=C1)F)C1=NC=NN1C)=O)C(=O)OCC | C21H18F2N4O3
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 2 mL | CO | CH4O
product | 5-Fluoro-8-(4-fluorophenyl)-9-(1-methyl-1H-1,2,4-triazol-5-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 650 mg, yield 84% | FC=1C=C2C=3C(=NNC(C3C1)=O)C(C(N2)C2=CC=C(C=C2)F)C2=NC=NN2C | C19H14F2N6O
